US03993677
Preparation of 1-Ethyl-3-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)-2-thiourea
To a solution of 1,2,3,4-tetrahydro-4-oxo-1-naphthyl isothiocyanate (5.0 g) in methylene chloride (100 ml), ethylamine is added via ethanol (15 ml) saturated with ethylamine. After stirring for 18 hours, the mixture is heated at reflux for 2 hours, cooled and evaporated to dryness in vacuo. The residue is triturated with water and the title compound collected and dried; m.p. 134° to 138° C.

reactant | 1,2,3,4-tetrahydro-4-oxo-1-naphthyl isothiocyanate | 5.0 g | O=C1CCC(C2=CC=CC=C12)N=C=S | C11H9NOS
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | ethylamine | C(C)N | C2H7N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-3-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)-2-thiourea | C(C)NC(=S)NC1CCC(C2=CC=CC=C12)=O | C13H16N2OS
